### PR TITLE
[Merged by Bors] - Composing non_zero function with injective fun is non_zero

### PR DESCRIPTION
**Pull request by CBirkbeck**
Some basic missing lemmas about injective function composition.  See this Zulip [thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/injective.20function.20composed.20with.20non.20zero.20function.20ne.20zero) 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 1]
```diff
@@ -548,6 +548,21 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+lemma comp_eq_const_iff {α β γ: Type*} (b : β) (f : α → β) (g : β → γ)
+    (hg : Injective g) : g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
+
+lemma comp_eq_zero_iff {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
+    (hg : Injective g) (hg0 : g 0 = 0) : g ∘ f = 0 ↔ f = 0 := by
+  have := (comp_eq_const_iff 0 f g hg)
+  rw [hg0] at this
+  simp only [const_zero] at this
+  exact this
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:560]:
```suggestion
  simpa [hg0, const_zero] using comp_eq_const_iff 0 f g hg
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 2]
```diff
@@ -548,6 +548,21 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ: Type*} (b : β) (f : α → β) (g : β → γ)
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:551]:
```suggestion
lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) (g : β → γ)
```
I think that a space is expected here.  Similarly below.

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 3]
```diff
@@ -548,6 +548,21 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+lemma comp_eq_zero_iff {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
+    (hg : Injective g) (hg0 : g 0 = 0) : g ∘ f = 0 ↔ f = 0 := by
+  have := (comp_eq_const_iff 0 f g hg)
+  rw [hg0] at this
+  simp only [const_zero] at this
+  exact this
+
+lemma comp_inj_ne_zero {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
+    (hg : Injective g) (hg0 : g 0 = 0) : (g ∘ f) ≠ 0 ↔ f ≠ 0 :=
+  (Iff.ne (comp_eq_zero_iff f g hg hg0))
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:564]:
```suggestion
  (comp_eq_zero_iff f g hg hg0).ne
```
in case you are into dot-notation!

**Review by adomani — APPROVED** [review]
Thanks!

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 4]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) (g : β → γ)
+    (hg : Injective g) : g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
+
+lemma comp_eq_zero_iff {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
+    (hg : Injective g) (hg0 : g 0 = 0) : g ∘ f = 0 ↔ f = 0 := by
+  simpa [hg0, const_zero] using comp_eq_const_iff 0 f g hg
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:557]:
```suggestion
  simpa [hg0, const_zero] using comp_eq_const_iff 0 f hg
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 5]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) (g : β → γ)
+    (hg : Injective g) : g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
+
+lemma comp_eq_zero_iff {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:555]:
```suggestion
lemma comp_eq_zero_iff {α β γ : Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) {g : β → γ}
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 6]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+    (hg : Injective g) (hg0 : g 0 = 0) : g ∘ f = 0 ↔ f = 0 := by
+  simpa [hg0, const_zero] using comp_eq_const_iff 0 f g hg
+
+lemma comp_inj_ne_zero {α β γ: Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) (g : β → γ)
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:559]:
```suggestion
lemma comp_inj_ne_zero {α β γ : Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) {g : β → γ}
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 7]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+    (hg : Injective g) (hg0 : g 0 = 0) : (g ∘ f) ≠ 0 ↔ f ≠ 0 :=
+  (comp_eq_zero_iff f g hg hg0).ne
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:561]:
```suggestion
  (comp_eq_zero_iff f hg hg0).ne
```

File: Mathlib/Algebra/Group/Pi/Basic.lean (hunk 4 above)
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:557]:
```suggestion
  simpa [hg0, const_zero] using comp_eq_const_iff 0 f hg
```

**Review by adomani — COMMENTED** [review]
Sorry, I noticed these after my previous review!

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 8]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) (g : β → γ)
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Algebra/Group/Pi/Basic.lean:551]: Hopefully, this is the last 2-character change!

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 9]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) {g : β → γ}
+    (hg : Injective g) : g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
+
+lemma comp_eq_zero_iff {α β γ : Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) {g : β → γ}
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:555]:
```suggestion
lemma comp_eq_zero_iff {α β γ : Type*} [OfNat β 0] [OfNat γ 0] (f : α → β) {g : β → γ}
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 10]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+    (hg : Injective g) (hg0 : g 0 = 0) : g ∘ f = 0 ↔ f = 0 := by
+  simpa [hg0, const_zero] using comp_eq_const_iff 0 f hg
+
+lemma comp_inj_ne_zero {α β γ : Type*} [OfNat β 0] [ OfNat γ 0] (f : α → β) {g : β → γ}
```
Comment (adomani) [inline Mathlib/Algebra/Group/Pi/Basic.lean:559]:
```suggestion
lemma comp_inj_ne_zero {α β γ : Type*} [OfNat β 0] [OfNat γ 0] (f : α → β) {g : β → γ}
```

**Review by adomani — COMMENTED** [review]
This is surely the most corrections that I have suggested on any single line of code!  :smile:

**Comment by CBirkbeck** [comment]
> This is surely the most corrections that I have suggested on any single line of code!  :smile: 

Hahaha I'm sorry! I really didn't look at it very closely since most of it was written by people that know more than me!

**Comment by CBirkbeck** [comment]
Ok this should be ready to go I think.

**Comment by mattrobball** [comment]
Thanks!

bors merge

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 11]
```diff
@@ -548,6 +548,18 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff {α β γ : Type*} (b : β) (f : α → β) {g : β → γ}
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Pi/Basic.lean:551]: I haven't tested this, but I wonder if these types are already defined at the top of the file.
```suggestion
lemma comp_eq_const_iff (b : β) (f : α → β) {g : β → γ}
```

Comment (eric-wieser) [reply Mathlib/Algebra/Group/Pi/Basic.lean:551]: Yes, they are

**Comment by eric-wieser** [comment]
I don't think there is ever a reason to write `OfNat T 0` in mathlib over `Zero T`; and once you use the latter, `to_additive` works!

I pushed a change to that effect; please merge if you're happy with it

bors d+

**Comment by CBirkbeck** [comment]
> I don't think there is ever a reason to write `OfNat T 0` in mathlib over `Zero T`; and once you use the latter, `to_additive` works!
> 
> I pushed a change to that effect; please merge if you're happy with it
> 

Ah yes much better! I had only used `OfNat` as it was the minimal think it was asking to state and prove the lemmas. But `Zero T` is definitely better.

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 12]
```diff
@@ -548,6 +548,20 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff (b : β) (f : α → β) {g : β → γ} (hg : Injective g) :
+    g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pi/Basic.lean:553]:
```suggestion
    g ∘ f = const _ (g b) ↔ f = const _ b := hg.comp_left.eq_iff
```

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 13]
```diff
@@ -548,6 +548,20 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
   ⟨injective_pi_map fun i => (hF i).injective, surjective_pi_map fun i => (hF i).surjective⟩
 #align function.bijective_pi_map Function.bijective_pi_map
 
+lemma comp_eq_const_iff (b : β) (f : α → β) {g : β → γ} (hg : Injective g) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pi/Basic.lean:551]:
```suggestion
lemma comp_eq_const {b : β} {f : α → β} {g : β → γ} (hg : Injective g) :
```
Same below

File: Mathlib/Algebra/Group/Pi/Basic.lean [hunk 14]
```diff
@@ -548,6 +548,20 @@ theorem bijective_pi_map {F : ∀ i, f i → g i} (hF : ∀ i, Bijective (F i))
...
+    g ∘ f = Function.const _ (g b) ↔ f = Function.const _ b :=
+  hg.comp_left.eq_iff' rfl
+
+@[to_additive]
+lemma comp_eq_one_iff [One β] [One γ] (f : α → β) {g : β → γ} (hg : Injective g) (hg0 : g 1 = 1) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pi/Basic.lean:556]: `hg0` is a weird assumption name for something talking about `1`

File: Mathlib/Algebra/Group/Pi/Basic.lean (hunk 12 above)
Comment (CBirkbeck) [reply Mathlib/Algebra/Group/Pi/Basic.lean:553]: I don't know what to do about these comments, now that its been merged? make a new pr?

File: Mathlib/Algebra/Group/Pi/Basic.lean (hunk 14 above)
Comment (CBirkbeck) [reply Mathlib/Algebra/Group/Pi/Basic.lean:556]: Ah its because it was a zero to start and then Eric saw that it would work more generally with a `to_additive`.

File: Mathlib/Algebra/Group/Pi/Basic.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Pi/Basic.lean:553]: Yeah that would be great, thank you!
